US07622480B2
D. Preparation of 3-piperidinyl-1H-pyrrolo[2,3-b]pyridine
14.67 g (42.0 mmol) of 3-(1-ethoxycarbonyl-piperidin-4-yl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester were added to a solution of 40.32 g (720 mmol) of potassium hydroxide in 630 ml of isopropanol. The mixture was refluxed for 20 hours. The solvent was distilled off and cold water was added. This solution was acidified with concentrated hydrochloric acid and then basified with 8 N aqueous sodium hydroxide solution. This aqueous solution was extracted twice with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulphate, filtered and evaporated under reduced pressure affording 4.66 g (48% of yield) of the expected product as an oil.

reactant | 3-(1-ethoxycarbonyl-piperidin-4-yl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester | 42.0 mmol, 14.67 g | C(C)OC(=O)N1C=C(C=2C1=NC=CC2)C2CCN(CC2)C(=O)OCC | C18H23N3O4
reactant | potassium hydroxide | 720 mmol, 40.32 g | [OH-].[K+]
solvent | isopropanol | 630 ml | C(C)(C)O | C3H8O
product | 3-piperidinyl-1H-pyrrolo[2,3-b]pyridine | N1(CCCCC1)C1=CNC2=NC=CC=C21 | C12H15N3
